US09079866B2
2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]-N-ethyl-5-(trifluoromethyl)benzenesulfonamide
The title compound was prepared in a manner similar to that described in Example 427 using (6-(2-aminopyrimidin-5-yl)-5-fluoropyridin-3-yl)boronic acid and 2-bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide. MS (ESI): mass calcd. for C18H15F4N5O2S, 441.09; m/z found, 442.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.94 (d, J=1.1, 2H), 8.51-8.46 (m, 1H), 8.37-8.31 (m, 1H), 8.03 (dd, J=8.1, 1.9, 1H), 7.81 (dd, J=11.9, 1.8, 1H), 7.68 (d, J=7.9, 1H), 2.86 (q, J=7.3, 2H), 1.02 (t, J=7.2, 3H).

reactant | (6-(2-aminopyrimidin-5-yl)-5-fluoropyridin-3-yl)boronic acid | NC1=NC=C(C=N1)C1=C(C=C(C=N1)B(O)O)F | C9H8BFN4O2
reactant | 2-bromo-N-ethyl-5-(trifluoromethyl)benzenesulfonamide | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCC | C9H9BrF3NO2S
product | 2-[6-(2-Aminopyrimidin-5-yl)-5-fluoropyridin-3-yl]-N-ethyl-5-(trifluoromethyl)benzenesulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=N1)C1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)NCC)F | C18H15F4N5O2S
